US05612299
Di-pentaerythritol is a polyhydric alcohol which is chemically (2,2,-[oxy bis (methylene)]-bis[2(hydroxymethyl) 1)-1,3-propane diol]), or (HOCH2)3CCH2OCH2C(CH2OH)3. It is obtained as a by-product in the manufacture of pentaerythritol, chemically C(CH2OH)4, and it is separated by fractional crystallization.

reactant | 1,3-propane diol | C(CCO)O | C3H8O2
reactant | (HOCH2)3CCH2OCH2C(CH2OH)3 | C(CO)(CO)(CO)COCC(CO)(CO)CO | C10H22O7
product | C(CH2OH)4 | C(CO)(CO)(CO)CO | C5H12O4
